US08809331B2
To 2-chloro-N-cyclopropyl-5-(trifluoromethyl)pyrimidin-4-amine (237 mg, 1 mmol) in dioxane (3 mL) was added pTSA (190 mg, 1 mmol) and 4-amino-2-fluoro-5-methoxybenzoic acid (185 mg, 1 mmol). The mixture was heated to 100° C. for 5 h and then the mixture was allowed to cool to RT. The precipitated solid was collected by filtration, washed with dioxane and diethyl ether and then dried. The residue was suspended in DCM (5 mL) and then DIPEA (0.1 mL, 1.5 mmol) and HATU (228 mg, 0.6 mmol) were added, followed by morpholine (0.03 mL, 0.6 mmol). The mixture was allowed to stir at RT for 4 h and then DCM (10 mL) and saturated aqueous sodium bicarbonate solution (15 mL) were added. The separated organic phase was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification of the residue via silica gel column chromatography (0-10% methanol in DCM) gave (4-(4-(cyclopropylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)-2-fluoro-5-methoxyphenyl)(morpholino)methanone (36 mg, 16%) as an off-white solid. LCMS (10 cm_ESCI_Bicarb_MeCN): [M+H]+=456 at 2.93 min. 1H NMR (400 MHz, CDCl3): δ 8.77 (d, J=12.6 Hz, 1H), 8.20 (s, 1H), 7.94 (s, 1H), 6.91 (d, J=6.0 Hz, 1H), 5.48 (s, 1H), 3.92 (s, 3H), 3.84-3.76 (m, 4H), 3.68 (t, J=4.5 Hz, 2H), 3.44 (br s, 2H), 2.94-2.87 (m, 1H), 1.03-0.96 (m, 2H), 0.70-0.65 (m, 2H).

reactant | 2-chloro-N-cyclopropyl-5-(trifluoromethyl)pyrimidin-4-amine | 1 mmol, 237 mg | ClC1=NC=C(C(=N1)NC1CC1)C(F)(F)F | C8H7ClF3N3
reactant | pTSA | 1 mmol, 190 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 4-amino-2-fluoro-5-methoxybenzoic acid | 1 mmol, 185 mg | NC1=CC(=C(C(=O)O)C=C1OC)F | C8H8FNO3
reactant | DIPEA | 1.5 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.6 mmol, 228 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | morpholine | 0.6 mmol, 0.03 mL | N1CCOCC1 | C4H9NO
reactant | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (4-(4-(cyclopropylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)-2-fluoro-5-methoxyphenyl)(morpholino)methanone | 36 mg, 16% | C1(CC1)NC1=NC(=NC=C1C(F)(F)F)NC1=CC(=C(C=C1OC)C(=O)N1CCOCC1)F | C20H21F4N5O3
